US07625889B2
Step 2: N-Benzyl-N-[3-(1H-indol-5-yl)-benzyl]-N′,N′-dimethyl-ethane-1,2-diamine:
Sodium triacetoxyborohydride (480 mg, 2.3 mmol) was added to a solution of 3-(1H-indol-5-yl)-benzaldehyde (250 mg, 1.1 mmol) and N′-benzyl-N,N-dimethyl-ethane-1,2-diamine (600 mg, 3.4 mmol) and acetic acid (204 mg, 3.4 mmol) in 8 mL of tetrahydrofuran. The mixture was stirred at ambient temperature overnight, and then it was diluted with ethyl acetate, and neutralized with the careful addition of saturated sodium bicarbonate solution. The layers were separated and the organic phase was treated with polystyrene supported isocyanate resin (1.49 mmol/g, 1.7 g) for 2 h. The mixture was filtered and the filtrate was washed with 1M sodium carbonate solution. The aqueous phase was extracted into ethyl acetate, and the combined organic phases were dried over magnesium sulfate, filtered and concentrated to leave 290 mg of the title compound. LC/MS (short method): retention time, 2.61 min; (M+H)=384.

reactant | Sodium triacetoxyborohydride | 2.3 mmol, 480 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | 3-(1H-indol-5-yl)-benzaldehyde | 1.1 mmol, 250 mg | N1C=CC2=CC(=CC=C12)C=1C=C(C=O)C=CC1 | C15H11NO
reactant | N′-benzyl-N,N-dimethyl-ethane-1,2-diamine | 3.4 mmol, 600 mg | C(C1=CC=CC=C1)NCCN(C)C | C11H18N2
reactant | acetic acid | 3.4 mmol, 204 mg | C(C)(=O)O | C2H4O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-Benzyl-N-[3-(1H-indol-5-yl)-benzyl]-N′,N′-dimethyl-ethane-1,2-diamine | 290 mg | C(C1=CC=CC=C1)N(CCN(C)C)CC1=CC(=CC=C1)C=1C=C2C=CNC2=CC1 | C26H29N3
